### PR TITLE
[Merged by Bors] - fix(Tactic/FunProp): don't revert state after running discharger

### PR DESCRIPTION
**Pull request by ChiCubed**
The old behaviour is problematic when using e.g. `grind`, which likes to store its proofs in constants.

It was originally copied from code used for `simp`, and seems not to be necessary in `fun_prop`, so we remove it.

See [discussion on Zulip](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/.60fun_prop.60.20bug.20with.20.60grind.60.20as.20discharger/).

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by ChiCubed** [comment]
OK, I've added a couple simple tests: one that `fun_prop` works with a nontrivial application of `grind` as discharger, and one that manually modifies the state, in case the proof-abstracting behaviour of `grind` changes for whatever reason.

File: MathlibTest/fun_prop_disch.lean [hunk 1]
```diff
@@ -0,0 +1,25 @@
...
+-- In case the behaviour of `grind` changes, here's a more explicit test.
+open Lean Elab Tactic Meta in
+example : ContinuousOn (log ∘ sin) (Ioo 0 π) := by
+  have : ∀ x ∈ Ioo 0 π, sin x ≠ 0 := by grind [sin_pos_of_mem_Ioo]
+  fun_prop (disch := run_tac
+    let goal ← getMainGoal
+    let ty ← goal.getType
+    let mvar ← mkFreshExprSyntheticOpaqueMVar ty
+    let _ ← mvar.mvarId!.assumption
+    goal.assign <| ← mkAuxTheorem ty (← instantiateMVars mvar))
```
Comment (Vierkantor) [inline MathlibTest/fun_prop_disch.lean]: I really like how you test the underlying behaviour here, good job!

File: MathlibTest/fun_prop_disch.lean [hunk 2]
```diff
@@ -0,0 +1,25 @@
+import Mathlib.Tactic.FunProp
+import Mathlib.Analysis.SpecialFunctions.Log.Basic
+import Mathlib.Analysis.SpecialFunctions.Trigonometric.Basic
```
Comment (Vierkantor) [inline MathlibTest/fun_prop_disch.lean]: Can we come up with a different test to put in `MathlibTest/fun_prop.lean` without changing its imports? It's good to have this kind of realistic test case, so I wouldn't want to change it too much. But it does require a lot of files to be recompiled on every change to `fun_prop` before we can get to testing it. So I would also like something simpler.

File: MathlibTest/fun_prop_disch.lean (hunk 1 above)
Comment (ChiCubed) [reply MathlibTest/fun_prop_disch.lean]: Thanks!

File: MathlibTest/fun_prop_disch.lean (hunk 2 above)
Comment (ChiCubed) [reply MathlibTest/fun_prop_disch.lean]: I've moved the tests, in a simplified but spiritually similar form, to `MathlibTest/fun_prop_dev.lean`, which rebuilds fast for me.

File: MathlibTest/fun_prop_dev.lean [hunk 3]
```diff
@@ -644,3 +644,33 @@ theorem aemeas_foo4 (μ : Bool) : AEMeas foo4 μ := silentSorry
 theorem con_foo4 : (∀ μ : Bool, AEMeas foo4 μ) → Con foo4 := silentSorry
 
 example : Con foo4 := by fun_prop
+
+
+
+
+/-
```
Comment (Vierkantor) [inline MathlibTest/fun_prop_dev.lean]: Two tiny bits of nitpicking: This kind of comment that describes a section is useful to also display in our autogenerated documentation. You can do so by opening it with the `/-!` comment marker.

I also prefer using only one empty line between definitions. I think that the maintainers agreed on that as a style rule, even if this file seems to disagree...

Although we are a lot less picky about style in test files, I think it's a good habit to get into practicing the same style everywhere. Sorry for the pedantry :)

```suggestion
example : Con foo4 := by fun_prop

/-!
```

**Review by Vierkantor — APPROVED** [review]
Thank you very much, and again nice work! Please apply my suggestion, then write a comment on the pull request, saying `bors r+`. Then your first commit will land in Mathlib 🎉 

bors d+
